US05852011
Methyl 4-chloromethylbenzoate
A solution of 2.0 g (12 mmol) of 4-chloromethylbenzoic acid in 50 ml of methanol was added with 5 droplets of concentrated sulfuric acid, followed by stirring under heat and reflux for 4 days. After neutralization with a 5% aqueous solution of sodium carbonate, the resultant mixture was extracted with chloroform. The chloroform extract was dried over magnesium sulfate and then concentrated under reduced pressure, whereby 1.7 g of a colorless liquid were obtained.

reactant | 4-chloromethylbenzoic acid | 12 mmol, 2.0 g | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | Methyl 4-chloromethylbenzoate | 1.7 g | ClCC1=CC=C(C(=O)OC)C=C1 | C9H9ClO2
